US04728654
Preparation of 8-methyl-6-[4-hydroxylphenyl]-2-(1H)-quinolone
A mixture of 2-methoxy-8-methyl-6-[4-methoxyphenyl]quinoline (4.82 g) and 48% aqueous HBr (100 cm3) was heated under reflux for 6 hours. The cooled mixture was diluted with water (200 cm3), the solid filtered off, and dissolved in chloroform:methanol, 4:1 (500 cm3). The organic phase was washed with water (2×25 cm3), dried (MgS04) and evaporated in vacuo to give a solid which was recrystallised from propan-2-ol to afford the title compound, m.p. 270°-274°, (2.5 g).

reactant | 2-methoxy-8-methyl-6-[4-methoxyphenyl]quinoline | 4.82 g | COC1=NC2=C(C=C(C=C2C=C1)C1=CC=C(C=C1)OC)C | C18H17NO2
reactant | HBr | 100 cm3 | Br | BrH
solvent | water | 200 cm3 | O | H2O
product | 8-methyl-6-[4-hydroxylphenyl]-2-(1H)-quinolone | CC=1C=C(C=C2C=CC(NC12)=O)C1=CC=C(C=C1)O | C16H13NO2
